US06933311B2
N-[3-fluoro-5-(trifluoromethyl)benzyl]-2-(5-isoquinolinyl)propanamide
The title compound was prepared using the procedure described in Example 222B using 3-fluoro-5-(trifluoromethyl)benzylamine and 2-(5-isoquinolinyl)propanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 377 (M+H)+; MS (ESI−) m/z 375 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 1.55 (d, J 7.1, 3H), 4.36 (m, 2H), 4.53 (q, J 7.1, 1H), 7.29 (m, 2H), 7.49 (d, J 8.7, 1H), 7.80 (t, J 7.8, 1H), 7.93 (d, J 6.5, 1H), 8.21 (d, J 8.1, 1H), 8.31 (d, J 6.4, 1H), 8.60 (d, J 6.2, 1H), 8.73 (t, J 5.8, 1H), 9.56 (s, 1H).

reactant | 3-fluoro-5-(trifluoromethyl)benzylamine | FC=1C=C(CN)C=C(C1)C(F)(F)F | C8H7F4N
reactant | 2-(5-isoquinolinyl)propanoic acid | C1=NC=CC2=C(C=CC=C12)C(C(=O)O)C | C12H11NO2
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | N-[3-fluoro-5-(trifluoromethyl)benzyl]-2-(5-isoquinolinyl)propanamide | FC=1C=C(CNC(C(C)C2=C3C=CN=CC3=CC=C2)=O)C=C(C1)C(F)(F)F | C20H16F4N2O
